US04416880
2-(2-Trifluoromethylbenzylidene)-3-oxo-4-chlorobutyric acid ethyl ester
226.2 g of 2-trifluoromethylbenzaldehyde, 235 g of 4-chloroacetoacetic acid ethyl ester, 4.2 ml of glacial acetic acid and 2.1 ml of piperidine were dissolved in 500 ml of benzene and the solution was boiled for 8 hours using a water separator. 1 liter of ethyl acetate was added and the mixture was extracted twice with sodium bicarbonate, once with citric acid and once more with water, dried and evaporated. The crude product was subjected to incipient distillation up to 130° under a high vacuum and the product remained as the residue in the form of a chromatographically pure 2:1 isomer mixture.

reactant | 2-trifluoromethylbenzaldehyde | 226.2 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | 4-chloroacetoacetic acid ethyl ester | 235 g | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
reactant | acetic acid | 4.2 ml | C(C)(=O)O | C2H4O2
reactant | piperidine | 2.1 ml | N1CCCCC1 | C5H11N
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(2-Trifluoromethylbenzylidene)-3-oxo-4-chlorobutyric acid ethyl ester | C(C)OC(C(C(CCl)=O)=CC1=C(C=CC=C1)C(F)(F)F)=O | C14H12ClF3O3
